US03962443
8-Benzyl-5,8-dihydro-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid (compound 19)
A mixture of 1.0 g of 5,8-dihydro-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid, 0.6 ml of benzyl chloride, 20 ml of a 12% aqueous solution of potassium carbonate, and 150 ml of dimethylformamide was heated at 95°C for 2 hours. After removal of the solvent and an excess of the reagent, the resulting residue was taken up in water and the aqueous solution neutralized with acetic acid. The solid that separated was collected and recrystallized from dimethylformamide to give 0.7 g of the product, m.p. 251° - 255°C.

reactant | 5,8-dihydro-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 1.0 g | CN1CCN(CC1)C=1N=CC2=C(N1)NC=C(C2=O)C(=O)O | C13H15N5O3
reactant | benzyl chloride | 0.6 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 8-Benzyl-5,8-dihydro-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 0.7 g | C(C1=CC=CC=C1)N1C=C(C(C2=C1N=C(N=C2)N2CCN(CC2)C)=O)C(=O)O | C20H21N5O3
